US05215986
4-Bromotetrahydro-2-methyl-2H-1,2-oxazin-3-one
A mixture of 65 mL of dichloromethane and 2.6 g (33 mmol) of 50% aqueous sodium hydroxide in 8 mL of water was treated with 2.5 g (30 mmol) of N-methylhydroxylamine hydrochloride. After cooling to 5° C., 8.5 g (32 mmol) of 2,4-dibromobutyryl chloride* was added dropwise, with the temperature maintained at 5° to 8° C. An additional 2.6 g of 50% aqueous sodium hydroxide was added, and the mixture was stirred for 2 hours at 5° C. A final 2.6 g of 50% aqueous sodium hydroxide was added, and the mixture was stirred at room temperature for 18 hours. The organic layer was separated, and the aqueous layer was extracted with dichloromethane. The combined organic layers were dried (anhydrous magnesium sulfate) and evaporated.

reactant | dichloromethane | 65 mL | ClCCl | CH2Cl2
reactant | sodium hydroxide | 33 mmol, 2.6 g | [OH-].[Na+]
reactant | N-methylhydroxylamine hydrochloride | 30 mmol, 2.5 g | Cl.CNO
reactant | 2,4-dibromobutyryl chloride | 32 mmol, 8.5 g | BrC(C(=O)Cl)CCBr | C4H5Br2ClO
reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
solvent | water | 8 mL | O | H2O
product | 4-Bromotetrahydro-2-methyl-2H-1,2-oxazin-3-one | BrC1C(N(OCC1)C)=O | C5H8BrNO2
